US06333324B1
A solution of (2R,3R)-O-benzyl-2-tert-butoxycarbonylamino-3-[N-(2-methanesulfonyloxyethyl)-N-methanesulfonylamino]butanol (2.6 g) in dry DMF (15 ml) was added dropwise to a suspension of sodium hydride (60% dispersion in mineral oil, 189 mg) in dry DMF (10 ml) at 4° C. over 20 minutes. The mixture was stirred at same temperature for 45 minutes and then poured into a mixture of ice and 1N HCl (8 ml). The mixture was extracted with AcOEt. The organic layer was washed with saturated aqueous NaCl solution, dried over MgSO4 and concentrated in vacuo. The residue was purified by SiO2 column chromatography (eluent: AcOEt in n-hexane 40% and 50%) to give 2.1 g of (2R,3R)-2-benzyloxymethyl-1-tert-butoxycarbonyl-4-methanesulfonyl-3-methylpiperazine as an oil.

reactant | (2R,3R)-O-benzyl-2-tert-butoxycarbonylamino-3-[N-(2-methanesulfonyloxyethyl)-N-methanesulfonylamino]butanol | 2.6 g | C(C1=CC=CC=C1)OC[C@@H]([C@@H](C)N(S(=O)(=O)C)CCOS(=O)(=O)C)NC(=O)OC(C)(C)C | C20H34N2O8S2
reactant | sodium hydride | 189 mg | [H-].[Na+]
reactant | HCl | 1N, 8 ml | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (2R,3R)-2-benzyloxymethyl-1-tert-butoxycarbonyl-4-methanesulfonyl-3-methylpiperazine | 2.1 g | C(C1=CC=CC=C1)OC[C@@H]1N(CCN([C@@H]1C)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H30N2O5S
